US07244753B2
To 2-(3-Chloro-5-(trifluoromethyl)(2-pyridyl))-2-phenylethanenitrile (Ryan Scientific Inc., South Carolina, U.S., 4.8 g, 16.17 mmol) and 4-(methylthio)benzeneboronic acid (4.15 g, 25 mmol) dissolved in anhydrous dioxane (80 mL) were added successively, tris(dibenzylideneacetone)dipalladium (0.58 g, 0.633 mmol), tri-tert-butylphosphine (150 mg, 0.724 mmol) followed by cesium carbonate (6.5 g, 20 mmol). The resulting mixture was heated at reflux overnight under a nitrogen atmosphere. Additional 4-(methylthio)benzeneboronic acid (4.15 g, 25 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.58 g, 0.633 mmol), tri-tert-butylphosphine (150 mg, 0.724 mmol) and cesium carbonate (6.5 g, 20 mmol) were added and the reaction mixture was heated at reflux for another 24 hours, then cooled to room temperature and solvent was evaporated. The residue was treated with water and then extracted with ethyl acetate (1×250 mL). The combined organic extracts were washed with water (4×250 mL), brine (1×250 mL), dried over sodium sulfate, treated with charcoal, filtered and concentrated to give the crude product. Purification by column chromatography over silica gel using 5% ethyl acetate in hexane gave a thick oil (1.3 g) that was a mixture (85:15) of 2-(3-(4-methylthiophenyl)-5-(trifluoromethyl)(2-pyridyl))-2-phenylethanenitrile and 3-(4-methylthiophenyl)-5-(trifluoromethyl)(2-pyridyl) phenyl ketone. This mixture was dissolved in methanol (60 mL) and OXONE® (4.35 g, 7.1 mmol) in water (15 mL) was added, and then stirred at room temperature for 1.5 hours. The resulting mixture was neutralized with ammonium hydroxide, the solvent was evaporated and the residue extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with water (2×50 mL), brine (1×25 mL), dried over sodium sulfate, filtered and solvent was evaporated to give the crude product. Purification by column chromatography over silica gel using a gradient of 20 to 40% ethyl acetate in hexane gave the less polar compound, 3-(4-(methylsulfonyl)phenyl)-5-(trifluoromethyl)(2-pyridyl) phenyl ketone, as a white crystalline product (85 mg), mp 141-142° C. 1H NMR (CDCl3) δ 9.03 (s, 1H), 8.14 (d, J=1.3 Hz, 1H), 7.96 (d, J=8.3 Hz, 2H), 7.85 (dd, J=7.2 and 1.0 Hz, 2H), 7.66 (t, J=7.6 Hz, 1H), 7.58 (d, J=8.3 Hz, 2H), 7.51 (t, J=7.5 Hz, 2H), 3.03 (s, 3H); 13C NMR (CDCl3) δ 193.1, 158.2, 145.05, 141.5, 140.7, 135.3, 134.3, 130.3 (2C), 129.7 (2C), 128.2 (2C), 127.8, (2C), 127.0 (q, J=33 Hz, CF3), 124.6, 121.0, 44.3; LRMS (APIMS) m/z 406 (M+H)+.

reactant | 2-(3-(4-methylthiophenyl)-5-(trifluoromethyl)(2-pyridyl))-2-phenylethanenitrile | CSC1=CC=C(C=C1)C=1C(=NC=C(C1)C(F)(F)F)C(C#N)C1=CC=CC=C1 | C21H15F3N2S
reactant | 3-(4-methylthiophenyl)-5-(trifluoromethyl)(2-pyridyl) phenyl ketone | C1(=CC=CC=C1)C(=O)C1=NC=C(C=C1C1=CC=C(C=C1)SC)C(F)(F)F | C20H14F3NOS
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methanol | 60 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | 3-(4-(methylsulfonyl)phenyl)-5-(trifluoromethyl)(2-pyridyl) phenyl ketone | C1(=CC=CC=C1)C(=O)C1=NC=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C20H14F3NO3S
